US07553854B2
To the solution of tert-butyl 4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinate (500 mg, 1.25 mmol) in 10 ml of NMP was added (1R,2R)-cyclohexane-1,2-diamine (581 mg, 3.84 mmol) and DIPEA (0.995 ml, 5.76 mmol). The reaction solution was stirred at 100° C. for 3 days. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give tert-butyl 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinate (240 mg, 0.544 mmol) as white powder. ES/MS m/z 442.5 (MH+).

reactant | tert-butyl 4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinate | 1.25 mmol, 500 mg | CS(=O)C=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)OC(C)(C)C | C18H18N2O4S2
reactant | (1R,2R)-cyclohexane-1,2-diamine | 3.84 mmol, 581 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | DIPEA | 5.76 mmol, 0.995 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | tert-butyl 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinate | 0.544 mmol, 240 mg | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)OC(C)(C)C | C23H27N3O4S
